US08372864B2
79 mg of N-[(1S,2R)-1-benzyl-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide are dissolved in 1.2 cm3 of ethyl ether at a temperature close to 20° C. 0.4 cm3 of a 2M hydrochloric acid solution in ethyl ether is added while stirring under argon, at a temperature of 5° C. The reaction mixture precipitates. The stirring is continued for 20 min, then is stopped in order to remove the supernatant. 5 cm3 of ethyl ether are again added. This operation is carried out twice. The last suspension is then concentrated under reduced pressure (5 kPa). 68 mg of N-[(1S,2R)-1-benzyl-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride (1:1) are obtained in the form of a white solid.

reactant | N-[(1S,2R)-1-benzyl-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide | 79 mg | C(C1=CC=CC=C1)[C@@H]([C@@H](CNC1(CC1)C1=CC(=CC=C1)C(F)(F)F)O)NC(=O)C=1C=2CCN(C(C2C=CC1)=O)C(CCC)CCC | C37H44F3N3O3
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | ethyl ether | 1.2 cm3 | C(C)OCC | C4H10O
product | N-[(1S,2R)-1-benzyl-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride | 68 mg | Cl.C(C1=CC=CC=C1)[C@@H]([C@@H](CNC1(CC1)C1=CC(=CC=C1)C(F)(F)F)O)NC(=O)C=1C=2CCN(C(C2C=CC1)=O)C(CCC)CCC | InChI=1S/C37H44F3N3O3.ClH/c1-3-10-28(11-4-2)43-21-18-29-30(16-9-17-31(29)35(43)46)34(45)42-32(22-25-12-6-5-7-13-25)33(44)24-41-36(19-20-36)26-14-8-15-27(23-26)37(38,39)40;/h5-9,12-17,23,28,32-33,41,44H,3-4,10-11,18-22,24H2,1-2H3,(H,42,45);1H/t32-,33+;/m0./s1
